US07994205B2
N-methyl-1-{1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}methanamine 0.5 Oxalate
1-[(4-Methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde (1.00 g) was dissolved in methanol (30 mL), 40% methylamine methanol solution (700 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (171 mg) was added at 5-10° C., and the mixture was stirred for 30 min. 1 mol/L Hydrochloric acid was added at the same temperature, and the mixture was further stirred for 30 min. The reaction mixture was alkalified with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:hexane-ethyl acetate=1:1→0:1), dissolved in ethyl acetate (10 mL), and crystallized by adding a solution (5 mL) of anhydrous oxalic acid (53 mg) in ethyl acetate to give the title compound as colorless crystals (yield 197 mg, 17%).

reactant | 1-[(4-Methylphenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde | 1.00 g | CC1=CC=C(C=C1)S(=O)(=O)N1C(=NC(=C1)C=O)C1=CC=CC=C1 | C17H14N2O3S
reactant | methylamine methanol | 700 mg | CO.CN
reactant | Sodium borohydride | 171 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | N-methyl-1-{1-[(4-methylphenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}methanamine | yield 197 mg, 17% | CNCC=1N=C(N(C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C18H19N3O2S
